US04663468
According to the prior art methods, production of β-methyl-δ-valerolactone and 3-methylpentane-1,5-diol requires respective independent production facilities. On the contrary, the simultaneous production method can produce β-methyl-δ-valerolactone and 3-methylpentane-1,5-diol simultaneously from 2-hydroxy-4-methyltetrahydropyran with a common reactor and under relatively mild conditions. According to this simultaneous production method, β-methyl-δ-valerolactone and 3-methylpentane- 1,5-diol are produced generally in a β-methyl-δ-valerolactone/3-methylpentane-1,5-diol mole ratio of about 70/30 to 15/85. Said simultaneous production on method can give β-methyl-δ-valerolactone and 3-methylpentane- 1,5-diol each in a satisfactory yield and in a yield ratio therebetween selected depending on the demands therefor.

reactant | β-methyl-δ-valerolactone | CC1CC(=O)OCC1 | C6H10O2
reactant | 3-methylpentane- 1,5-diol | CC(CCO)CCO | C6H14O2
product | β-methyl-δ-valerolactone 3-methylpentane-1,5-diol | CC1CC(=O)OCC1.CC(CCO)CCO | InChI=1S/C6H10O2.C6H14O2/c1-5-2-3-8-6(7)4-5;1-6(2-4-7)3-5-8/h5H,2-4H2,1H3;6-8H,2-5H2,1H3
